US06900215B2
A mixture of 5′-bromo-3,2′-difluorobiphenyl-2-carbonitrile (2.48 g, 8.43 mmol), potassium acetate (2.48 g, 25.3 mmol) and bis(neopentyl glycolato)diboron (2.48 g, 11.0 mmol) in 1,4-dioxane (40 ml) containing dimethylsulfoxide (0.8 ml) was degassed with nitrogen for 20 min. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (200 mg, 0.25 mmol) was then added and the reaction heated at 90° C. for 24 h. The mixture was cooled to ambient temperature then partitioned between 2N sodium hydroxide (75 ml) and diethyl ether (100 ml) and the organics were discarded. The aqueous extract was made acidic (pH 5) with 36% hydrochloric acid and then extracted with diethyl ether (2×75 ml). The organic extract was washed with water (50 ml) and brine (75 ml), dried over anhydrous magnesium sulfate and evaporated to give 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-3,2′-difluorobiphenyl-2-carbonitrile as a brown oil (2.5 g, 95%) that crystallised on standing: δH (360 MHz, CDCl3) 1.03 (6H, s), 3.77 (4H, s), 7.17-7.25 (2H, m), 7.30 (1H, d, J 8), 7.59-7.65 (1H, m), 7.81-7.91 (2H, m).

reactant | 5′-bromo-3,2′-difluorobiphenyl-2-carbonitrile | 8.43 mmol, 2.48 g | BrC=1C=CC(=C(C1)C=1C(=C(C=CC1)F)C#N)F | C13H6BrF2N
reactant | potassium acetate | 25.3 mmol, 2.48 g | C(C)(=O)[O-].[K+]
reactant | bis(neopentyl glycolato)diboron | 11.0 mmol, 2.48 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | dimethylsulfoxide | 0.8 ml | CS(=O)C | C2H6OS
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.25 mmol, 200 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-3,2′-difluorobiphenyl-2-carbonitrile | 2.5 g, 95% | CC1(COB(OC1)C=1C=CC(=C(C1)C=1C(=C(C=CC1)F)C#N)F)C | C18H16BF2NO2
